US09290476B2
Methyl 5-bromo-2-(3-phenylpropanamido)benzoate
Into a 100-mL round-bottom flask, was placed a solution of methyl 2-amino-5-bromobenzoate (5.0 g, 21.73 mmol), triethylamine (4.39 g, 43.38 mmol), 3-phenylpropanoyl chloride (3.67 g, 21.76 mmol) in dichloromethane (50 mL). The resulting mixture was stirred for 12 hours at room temperature. The reaction was then quenched by the addition of 50 mL of water. The resulting mixture was extracted with 3×50 mL of dichloromethane. The combined organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was purified by chromatography over a silica gel column with ethyl acetate/petroleum ether (2:1) to give the title compound as a white solid.

reactant | methyl 2-amino-5-bromobenzoate | 21.73 mmol, 5.0 g | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | triethylamine | 43.38 mmol, 4.39 g | C(C)N(CC)CC | C6H15N
reactant | 3-phenylpropanoyl chloride | 21.76 mmol, 3.67 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Methyl 5-bromo-2-(3-phenylpropanamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(CCC1=CC=CC=C1)=O | C17H16BrNO3
